US09340506B2
{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-acetic acid ethyl ester
To a solution of (2-tert-Butoxycarbonylamino-thiazol-4-yl)-acetic acid ethyl ester (7.5 g, 26.11 mmol) in 100 mL of dry dichloromethane was added DBU (11.96 g, 78.56 mmol) followed by para-methoxybenzyl chloride (6.15 g, 39.28 mmol) and the reaction mixture was stirred for 18 hrs at room temperature. The reaction was quenched with water and the layers were separated. The organic layer was washed with brine and dried over anhydrous sodium sulphate and the solvent was removed in vacuo. The residue was purified by column chromatography (silica gel 60-120 mesh and 2-10% ethyl acetate in hexanes as eluent) to get the pure compound (8.0 g).

reactant | (2-tert-Butoxycarbonylamino-thiazol-4-yl)-acetic acid ethyl ester | 26.11 mmol, 7.5 g | C(C)OC(CC=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C12H18N2O4S
reactant | DBU | 78.56 mmol, 11.96 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | para-methoxybenzyl chloride | 39.28 mmol, 6.15 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | {2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-acetic acid ethyl ester | 8.0 g | C(C)OC(CC=1N=C(SC1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C20H26N2O5S
